US05958924
4.3. Methyl 6-fluoro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate
16 ml (219 mmol) of thionyl chloride are added dropwise over approximately 30 minutes to a stirred suspension of 11.37 g (49.38 mmol) of a mixture of 6-fluoro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetic acid in 120 ml of methanol. The mixture is stirred overnight (13 hours) at room temperature and the solvent is driven off under vacuum. The residue is dissolved in 400 ml of dichloromethane, and then washed with saturated aqueous sodium bicarbonate solution and then with water. After drying over sodium sulphate, filtration and concentration of the filtrate, 9.6 g of the expected product are obtained.

reactant | thionyl chloride | 219 mmol, 16 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-fluoro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetic acid | FC=1C=C2C(=CC(N(C2=CC1)C)=O)CC(=O)O | C12H10FNO3
reactant | methanol | 120 ml | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | Methyl 6-fluoro-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate | FC=1C=C2C(=CC(N(C2=CC1)C)=O)CC(=O)OC | C13H12FNO3
